US05994368
To a mixture of sodium hydride (40% in oil, 2.64 g) and N,N-dimethylformamide (100 ml) was added 8-hydroxy-2-methylquinoline (10 g) in an ice-water bath. The mixture was stirred for 30 minutes at the same temperature and then 2,6-dichloro-3-nitrobenzyl chloride (15.1 g) and tetrabutylammonium iodide (100 mg) were added therein. The reaction mixture was stirred at ambient temperature for 1 hour. To this mixture was added water (100 ml) in an ice-water bath. The precipitates were collected by vacuum filtration and washed with water (60 ml) to give 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylquinoline (20.36 g) as a powder.

reactant | sodium hydride | 2.64 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 8-hydroxy-2-methylquinoline | 10 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | 2,6-dichloro-3-nitrobenzyl chloride | 15.1 g | ClC1=C(CCl)C(=CC=C1[N+](=O)[O-])Cl | C7H4Cl3NO2
catalyst | tetrabutylammonium iodide | 100 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylquinoline | 20.36 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1[N+](=O)[O-])Cl | C17H12Cl2N2O3
